US09402841B2
Step C: Methyl 3-chloroisoquinoline-1-carboxylate
A mixture of 1-(methoxycarbonyl)isoquinoline 2-oxide (9.5 g, 46.75 mmol) and POCl3 (50 mL) was heated at 100° C. for 4 hours. The reaction mixture was subsequently cooled and concentrated, and the crude product was purified by silica gel chromatography eluting with petroleum ether and EtOAc (15:1) to give the title compound as a white solid (5.1 g, 49%). ESI-MS m/z [M+H]+ 222.

reactant | 1-(methoxycarbonyl)isoquinoline 2-oxide | 46.75 mmol, 9.5 g | COC(=O)C1=[N+](C=CC2=CC=CC=C12)[O-] | C11H9NO3
reactant | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Methyl 3-chloroisoquinoline-1-carboxylate | 5.1 g, 49% | ClC=1N=C(C2=CC=CC=C2C1)C(=O)OC | C11H8ClNO2
